US07674795B2
Dissolve 144 mg of tert-butyl ester of {(R)-1-carbamoyl-2-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-9H-fluoren-9(R,S)-ylcarbamoyl]-ethyl}-carbamoic acid, obtained in Example 59, in 5 ml of dioxan and add 1 ml of a 4M solution of hydrochloric acid in dioxan. After stirring for 5 hours at room temperature, dry the solid that formed. After washing successively with a saturated aqueous solution of sodium hydrogen carbonate, then with dichloromethane, we obtain 145 mg of (R)-2-amino-N4-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-9H-fluoren-9(R,S)-yl]-succinamide, in the form of a pale green, crystalline solid, with the following characteristics:

reactant | {(R)-1-carbamoyl-2-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-9H-fluoren-9(R,S)-ylcarbamoyl]-ethyl}-carbamoic acid | C(N)(=O)[C@@H](CC(NC1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(C=NC=C2)N1)=O)NC(O)=O | C24H20N6O4
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
product | (R)-2-amino-N4-[4-(3H-imidazo[4,5-c]pyridin-2-yl)-9H-fluoren-9(R,S)-yl]-succinamide | 145 mg | N[C@@H](C(=O)N)CC(=O)NC1C2=CC=CC=C2C=2C(=CC=CC12)C1=NC2=C(C=NC=C2)N1 | C23H20N6O2
